US05082847
Ethyl chloroformate (30 g, 0.276 mol) was added at 0° C. to 4-amino-1-phenylmethylpiperidine (50 g, 0.262 mol) in pyridine (600 mL). After the addition, the mixture was kept at room temperature overnight, and the pyridine was then evaporated. The residue was extracted with methylene chloride; and the resulting solution washed with water, dried over sodium sulfate, and the methylene chloride evaporated to dryness. The residue was dissolved in diisopropyl ether. A white product precipitated, which was isolated by filtration to yield 42.71 g (62%) of ethyl (1-phenylmethyl-4-piperidyl)-carbamate, m.p. 100° C.

reactant | Ethyl chloroformate | 0.276 mol, 30 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-amino-1-phenylmethylpiperidine | 0.262 mol, 50 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | pyridine | 600 mL | N1=CC=CC=C1 | C5H5N
product | ethyl (1-phenylmethyl-4-piperidyl)-carbamate | 42.71 g, 62% | C1(=CC=CC=C1)CN1CCC(CC1)NC(OCC)=O | C15H22N2O2
